US05510375
2-(1-Oxo-5-phenoxypentyl)-4-methylphenyl diethylcarbamate
The title compound was prepared from 4-methylphenyl diethylcarbamate and N-methoxy-N-methyl-5-phenoxypentanamide following the same procedure used in Example F.

reactant | 4-methylphenyl diethylcarbamate | C(C)N(C(OC1=CC=C(C=C1)C)=O)CC | C12H17NO2
reactant | N-methoxy-N-methyl-5-phenoxypentanamide | CON(C(CCCCOC1=CC=CC=C1)=O)C | C13H19NO3
product | 2-(1-Oxo-5-phenoxypentyl)-4-methylphenyl diethylcarbamate | C(C)N(C(OC1=C(C=C(C=C1)C)C(CCCCOC1=CC=CC=C1)=O)=O)CC | C23H29NO4
